US06358980B1
4-(4-But-2-ynyloxy-phenylsulfanyl)-piperidine-4-carboxylic acid hydroxy-amide (prepared by the procedure outlined in example 15) (0.15 g, 0.5 mmol) in methanol (5 mL) and dimethylformamide (2.5 mL) was treated with triethylamine (0.15 mL, 1.1 mmol) followed by 4-bromobenzylbromide (0.13 g, 0.53 mmol). After 6 h the solution was diluted with ethyl acetate, acidified to pH=6 with 1N aqueous hydrochloric acid, washed sequentially with water, aqueous sodium bicarbonate and brine and dried over anhydrous sodium sulfate. Concentration in vacuo gave 1-(4-bromo-benzyl)-4-(4-but-2-ynyloxy-phenylsulfanyl)-piperidine-4-carboxylic acid hydroxyamide. 1HNMR (DMSO-d6): 1.5-1.6 (m, CHH, 2H), 1.8 (s, CH3, 3H), 1.9-2.2 (m, CHH, 4H), 2.5-2.6 (m, CHH, 2H), 3.4 (s, CH2Ar, 2H), 4.75 (s, CH2, 2H), 6.9 (d, ArH, 2H), 7.2 (d, ArH, 2H), 7.3 (d, ArH, 2H), 7.5 (d, ArH, 2H), 8.8 (s, NHOH, 1H), 10.6 (d, NHOH, 1H). Electrospray Mass Spectroscopy: ((M+H)+=489/491)

reactant | 4-(4-But-2-ynyloxy-phenylsulfanyl)-piperidine-4-carboxylic acid hydroxy-amide | ONC(=O)C1(CCNCC1)SC1=CC=C(C=C1)OCC#CC | C16H20N2O3S
reactant | triethylamine | 1.1 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzylbromide | 0.53 mmol, 0.13 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 1-(4-bromo-benzyl)-4-(4-but-2-ynyloxy-phenylsulfanyl)-piperidine-4-carboxylic acid hydroxyamide | ONC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)Br)SC1=CC=C(C=C1)OCC#CC | C23H25BrN2O3S
